US05217845
4. 2,7-Dimethyl-9-(p-tolyl)acridine (compound 4)
1 mol of 4,4'-dimethyldiphenylamine and 1 mol of 4-methylbenzoic acid are heated for 1 hour at 200° C. in 5000 g of polyphosphoric acid. After cooling, water and ammonia are added to the reaction mixture and the product is filtered off by suction and purified (m.p. 210°-211° C.).

reactant | 4,4'-dimethyldiphenylamine | 1 mol | CC1=CC=C(C=C1)NC2=CC=C(C=C2)C | C14H15N
reactant | 4-methylbenzoic acid | 1 mol | CC1=CC=C(C(=O)O)C=C1 | C8H8O2
reactant | ammonia | N | H3N
solvent | water | O | H2O
product | 2,7-Dimethyl-9-(p-tolyl)acridine | CC1=CC2=C(C3=CC(=CC=C3N=C2C=C1)C)C1=CC=C(C=C1)C | C22H19N
